Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abnormal MRI
 
Major Surgical or Invasive Procedure:
___ fine needle aspirate

 
History of Present Illness:
___ yo F w/ long hx of lumbar and thoracic spinal stenosis and 
degenerative disc disease presenting due to abnormal MRI 
findings.  
 In the ED, initial vitals were:  
 Temp 98.1 HR 85 BP 160/93 RR 16 99% RA  
 - Labs were significant for WBC 12.8, HG 14.8, Hct 44.1, 
platelets 216 and CRP 1.3. Chemistry within normal limits.  
 - Imaging re-read by ortho spine: MRI of the thoracolumbar 
spine demonstrates an epidural fluid collection at the T12-L1 
region that is T2 bright and enhances peripherally and 
heterogeneously. There is no cord signal change and the thecal 
sac/cord is not significantly displaced/compressed.  
 - The patient was given 10 mg diazepam, 600 mg Gabapentin, 2 
tabs hydrocodone-acetimominophen  
 Spine consulted in ED: With recommendation to admit for ___ 
guided biopsy. No spine precautions necessary  
 Vitals prior to transfer were:  
 Temp. 98.2 HR 73 BP 159/105 RR 16 95% RA  
 Upon arrival to the floor, the patient notes her back pain is 
improved and about ___. She states that for the past month she 
has had severe lower back pain that has not been relieved by her 
usual medication regimen or ice. She had an MRI both one week 
ago and yesterday. MRI yesterday was concerning for fluid 
collection around T12-L1 with compression of the sac. Patient 
was instructed to come to the ER.  
 Over this period of time she denies fevers/chills, difficulty 
walking or lower extremity weakness, bowel incontinence, urinary 
retention/incontinence or saddle anesthesia. She notes prior 
weakness in her leg that has now resolved. The pain she 
describes now is primarily in the lower lower thoracic to lumbar 
region with radiation of the pain occasionally down the right 
posterior extremity. She is followed for her pain by Dr. ___ 
at ___ and has an appointment on ___ morning. She 
furthermore notes that she has had to receive injections in her 
back for pain in the past that have been done rectally secondary 
to her severe spinal stenosis.  

 
Past Medical History:
Hyperlipidemia  
Left total knee arthroplasty ___, ___  
Lumbar and spinal stenosis  

 
Social History:
___
Family History:
Mother with MI  
Cousin with diabetes  

 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: Temp. 97.8, HR 71, BP 175/91, Recheck 142/84, RR 18, 99% 
RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  
MSK: Minimal tenderness to palpation over the T12-L1 spine.

DISCHARGE PHYSICAL EXAM
=======================
VS 98.1, 142/86, 70, 18, 97% on RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL  
Neck: Supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.  
MSK: Minimal tenderness to palpation over the T12-L1 spine 
(midline). 
 
Pertinent Results:
ADMISSION LABS
==============
___ 10:36PM   GLUCOSE-99 UREA N-7 CREAT-0.7 SODIUM-139 
POTASSIUM-4.1 CHLORIDE-102 TOTAL CO2-24 ANION GAP-17
___ 10:43PM   LACTATE-0.9
___ 10:36PM   CRP-1.3
___ 10:36PM   WBC-12.8* RBC-5.05 HGB-14.8 HCT-44.1 MCV-87 
MCH-29.3 MCHC-33.6 RDW-13.2 RDWSD-41.3
___ 10:36PM   NEUTS-62.7 ___ MONOS-7.3 EOS-1.4 
BASOS-0.4 IM ___ AbsNeut-8.02* AbsLymp-3.57 AbsMono-0.94* 
AbsEos-0.18 AbsBaso-0.05
___ 10:36PM   PLT COUNT-216
___ 01:10PM   ___ PTT-31.6 ___

STUDIES
=======
___ CT INTERVENTIONAL PROCEDURE
FINDINGS: 
1. A small epidural collection is faintly seen along the right 
aspect at the T12/L1 junction (03:16).  No window for access was 
appreciated on thick or thin slices. 
2. There is a small nonobstructing left renal calculus.  (03:17) 

  
IMPRESSION:  
Limited CT scan.  Planned aspiration not performed. 

 
Brief Hospital Course:
___ yo F history of lumbar and thoracic spinal stenosis and 
degenerative disc disease presenting due to abnormal MRI found 
to have fluid collection around T12-L1 with compression of the 
sac admitted for ___ guided biopsy.  

# MRI finding of T12-L1 epidural fluid collection with 
peripheral enhancement. No neurologic deficits. Ddx includes 
abscess, hematoma, phlegmon, malignancy. At admission, the 
patient had mid leukocytosis but no other systemic signs of 
infection.  FNA of the fluid collection by ___ was attempted but 
the fluid collection was too small and not easily accessible. 
Per Ortho Spine, likelihood of an infectious process was low. 
The patient was afebrile without any systemic symptoms 
throughout her hospitalization and over the past month. 
Therefore, the patient was discharged with instructions for 
close outpatient follow-up.

# Lumbar spinal stenosis. Continued on home gabapentin 600 mg 
BID, oxycoeon,e Tylenol and valium prn pain/spasm.  

# Hyperlipidemia.  Continued simvastatin 40 mg daily.  

# Elevated blood pressure.  Patient with elevated blood pressure 
currently in setting of pain. If persistently elevated, would 
consider initiation of antihypertensive.  

***TRANSITIONAL ISSUES***
- Patient should have repeat CBC drawn on ___. Admission CBC 
was 12.8.
- Patient should have follow-up in ___ weeks with Ortho Spine 
for repeat imaging and interval assessment of her fluid 
collection.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 40 mg PO QPM 
2. Gabapentin 600 mg PO BID 
3. TraMADOL (Ultram) 50 mg PO TID 
4. Multivitamins 1 TAB PO DAILY 
5. Fish Oil (Omega 3) 1000 mg PO DAILY 
6. Biotin Plus Keratin (biotin-keratin) 10,000-100 mcg-mg oral 
daily 
7. Acetaminophen 325-650 mg PO Q4H:PRN pain 
8. Hydrocodone-Acetaminophen (5mg-325mg) ___ TAB PO Q12 HR PRN 
pain 
9. Diazepam 10 mg PO Q12H:PRN back spasm 

 
Discharge Medications:
1. Gabapentin 600 mg PO BID 
2. Hydrocodone-Acetaminophen (5mg-325mg) 1 TAB PO Q12 HR PRN 
pain 
3. Simvastatin 40 mg PO QPM 
4. Diazepam 10 mg PO Q12H:PRN back spasm 
5. Acetaminophen 325-650 mg PO Q4H:PRN pain 
6. Biotin Plus Keratin (biotin-keratin) 10,000-100 mcg-mg oral 
daily 
7. Fish Oil (Omega 3) 1000 mg PO DAILY 
8. Multivitamins 1 TAB PO DAILY 
9. TraMADOL (Ultram) 50 mg PO TID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
spinal fluid collection at T12-L1

Secondary:
Chronic thoracic and lumbar stenoses

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___.  You were admitted to the hospital with acute on 
chronic back pain.  You had an MRI as an outpatient which showed 
a fluid collection in your spine.  You were referred to our 
hospital for further evaluation.  You were evaluated by our 
interventional radiologists who felt that this fluid collection 
was not easily amenable to drainage/aspiration.  The orthopedic 
spine surgical team felt that the likelihood of an infectious 
process was low, but they would like you to follow-up with an 
orthopedic spine specialist as an outpatient.

Please follow-up with your outpatient providers as instructed 
below.

Thank you for allowing us to participate in your care.  All best 
wishes for your recovery.

Sincerely,
Your ___ medical team
 
Followup Instructions:
___